US07265149B2
In analogy to the procedure described for example 3 c], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 2 e]) was reacted with [2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol in the presence of N,N,N′,N′-tetramethyl azodicarboxamide and tributylphosphine to give {6-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester as colorless oil.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | [2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol | FC(CN1N=C(C=C1CO)C1=CC=C(C=C1)C(F)(F)F)(F)F | C13H10F6N2O
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
product | {6-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1)C1=CC=C(C=C1)C(F)(F)F)CC(F)(F)F)=O | C25H21F6N3O3
